US04489003
6.92 g (20 mmol) of ethyl (S)-7-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 20 g of hydroxymethyl-cyclopropane and 1 g of tetraethyl orthotitanate are heated to 130° for 16 hours, evaporated in vacuo, the residue is taken up in chloroform and the solution is poured into about 20 percent hydrochloric acid. The mixture is stirred for 20 minutes, the chloroform phase is separated, washed successively with 1N hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated. By crystallization from ethyl acetate there is obtained cyclopropylmethyl (S)-7-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 146°-148°.

reactant | ethyl (S)-7-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 20 mmol, 6.92 g | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC)CCC3)=O)C1 | C17H16ClN3O3
reactant | hydroxymethyl-cyclopropane | 20 g | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 1 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl (S)-7-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC4CC4)CCC3)=O)C1 | C19H18ClN3O3
